Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
none

attach
 
Pertinent Results:
WBC 1.6--> 1.1--> 1.3 (ANC 0.56)
plt 74--> 66--> 75
fibrinogen 290
hapto 204
coags WNL
CRP 74.1
parasite smear neg x1
creatinine WNL
AST 120--> 97
ALT 94--> 80
AP 109--> 95
Tbili WNL
troponin <0.01
CMV, EBV pending
lyme Ab pending
HIV neg
anaplasma Ab pending
ESR pending
Flu A/B neg
BCx, UCx pending
U/A neg leuks and nitrite
 
Brief Hospital Course:
___ female with a history of
hypertension, mild intermittent asthma, depression who presents
for evaluation of subjective fever, chills, diffuse body aches,
and episode of vomiting, decreased p.o. intake for the last 3
days, found to have neutropenia, thrombocytopenia and 
transaminitis likely ___ viral infection vs. tick-borne illness, 
improved w/o intervention. 

ACUTE/ACTIVE PROBLEMS:
# Fever
# Leukopenia
# Bandemia 
#thrombocytopenia
Patient presented with fever to 103, tachycardia (HR 100), and
leukopenia with fever, muscle aches, most consistent with viral 
process. This
could also explain leukopenia and thrombocytopenia, as well as
transaminitis. She was given fluids, and also started on 
doxyxycline given her recent visit to ___ c/f tick-borne 
illness. Her neutropenia improved slightly on repeat labs with 
ANC >0.5. Patient was recommended to stay inhouse for a 
hematology evaluation given the severe neutropenia, but she 
preferred to go home. AST, LAT and alk phos were improving by 
the time of discharge. She still had pending labs on discharge 
including EBV, CMV, anaplasma, lyme, blood cultures and urine 
culture. She was set up with a hematology appointment the next 
day on ___ for repeat labs. 

#thrombocytopenia:
LDH mildly elevated, but fibrinogen, haptoglobin, coags and 
bilirubin WNL. See above, likely part of underlying process.

# Transaminitis 
- hep serologies, CMV/EBV as above 
RUQ U/S was done and WNL

# Abnormal EKG with TWI and mild ST depression in I; troponin 
was negative. She remained chest pain free throughout. Repeat 
EKG with resolution of TWI or ST depressions.

CHRONIC/STABLE PROBLEMS:
# Hypertension 
Her home antihypertensives were held in the s/o her acute 
illness. On discharge, they were held with instructions to wait 
until SBP returns to >140 or until she sees her primary care 
doctor.

# Asthma 
She was continued on home Montelu___, home Advair
##########################
TRANSITIONAL ISSUES:
[ ] REPEAT CBC WITH DIFFERENTIAL to check for resolving 
neutropenia and thrombocytopenia
[ ] repeat LFTs to ensure downtrending transaminitis
[ ] f/u EBV, CMV, lyme, anaplasma titers
[ ] f/u BCx, UCx
[ ] ensure patient is taking her doxycycline
[ ] recheck BP: all her antihypertensives were held on discharge 
because SBPs around 100. Instructions are to discuss with 
outpatient provider on when to restart them and/or if SBP >140.
###########################
>30 minutes spent on discharge planning and care coordination on 
the day of discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Escitalopram Oxalate 10 mg PO DAILY 
3. Bystolic (nebivolol) 5 mg oral DAILY 
4. Chlorthalidone 25 mg PO DAILY 
5. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
6. Atorvastatin 40 mg PO QPM 
7. Montelukast 10 mg PO DAILY 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth every 
twelve (12) hours Disp #*19 Tablet Refills:*0 
2.  Atorvastatin 40 mg PO QPM  
3.  Escitalopram Oxalate 10 mg PO DAILY  
4.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
5.  Montelukast 10 mg PO DAILY  
6. HELD- amLODIPine 10 mg PO DAILY  This medication was held. Do 
not restart amLODIPine until you see a primary care doctor or 
your SBP is >140
7. HELD- Bystolic (nebivolol) 5 mg oral DAILY  This medication 
was held. Do not restart Bystolic until you see a primary care 
doctor or your SBP is >140
8. HELD- Chlorthalidone 25 mg PO DAILY  This medication was 
held. Do not restart Chlorthalidone until you see a primary care 
doctor or your SBP is >140

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
neutropenia
thrombocytopenia
elevated liver tests
likely viral infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

DISCHARGE EXAM:
GENERAL: Alert and in no apparent distress, but appears fatigued
EYES: Anicteric, pupils equally round; no conjunctival pallor.
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart RRR, no murmurs/rubs/gallops.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  
GU: No suprapubic fullness or tenderness to palpation
EXT: WWP, 2+ distal pulses, no ___ edema
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ because of fevers, and you were found 
to have a low white blood cell count, low platelets and elevated 
liver tests. You had a RUQ ultrasound that was normal. This was 
thought to be because of a viral infection. However given your 
exposure to lyme disease, you were started empirically on a 
course of doxycycline for lyme disease. Your white blood cell 
count and absolute neutrophil count were very low. It is 
therefore very important that you isolate yourself from sick 
people and big crowds. 
-Please do not return to work until you have a repeat CBC 
showing an improvement in WBC counts. 
-Please see a PCP ___ for ___ repeat WBC count to show resolution 
in neutropenia.
-Go to the ED with any fever or new symptom.

It was a pleasure taking care of you.

-Your ___ care team.

 
Followup Instructions:
___